US04350637
A mixture of 3.18 g of benzyl DL-prolinate hydrochloride, 3 ml of demineralized water, 25 ml of benzene and 1.34 g of triethylamine was stirred at 20° C. for one hour and the decanted organic phase was washed with water, dried and evaporated to dryness to obtain 2.6 g of benzyl DL-prolinate in the form of a colorless oil.

reactant | benzyl DL-prolinate hydrochloride | 3.18 g | Cl.N1C(C(=O)OCC2=CC=CC=C2)CCC1
reactant | water | 3 ml | O | H2O
reactant | benzene | 25 ml | C1=CC=CC=C1 | C6H6
solvent | triethylamine | 1.34 g | C(C)N(CC)CC | C6H15N
product | benzyl DL-prolinate | 2.6 g | N1C(C(=O)OCC2=CC=CC=C2)CCC1 | C12H15NO2
